US07176242B2
A stirred solution of methyl 3-(aminocarbonyl)-5-[(dipropylamino)carbonyl]benzoate (200 mg, 0.65 mmol) chloroacetone (10 mL, 93 mmol) and potassium carbonate (90 mg, 0.65 mmol) was refluxed for 18 h. The reaction mixture was cooled to room temperature, diluted with ethyl acetate, washed with 2 N sodium hydroxide (2×50 mL), and saturated sodium chloride, dried (magnesium sulfate), and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:1 ethyl acetate/hexanes) provided methyl 3-[(dipropylamino)carbonyl]-5-(4-methyl-1,3-oxazol-2-yl)benzoate (119 mg): 1H NMR (300 MHz, CDCl3) δ 8.70 (d, J=1 Hz, 1H), 8.20 (d, J=1 Hz, 1H), 8.09 (d, J=1 Hz, 1H), 7.48 (s, 1H), 3.96 (s, 3H), 3.46 (d, J=7 Hz, 2H), 3.16 (t, J=7 Hz, 2H), 2.26 (s, 3H), 1.71 (d, J=7 Hz, 2H), 1.54 (d, J=7 Hz, 2H), 1.00 (t, J=7 Hz, 3H), 0.74 (t, J=7 Hz, 3H); ESI MS m/z 345 [M+H]+.

reactant | methyl 3-(aminocarbonyl)-5-[(dipropylamino)carbonyl]benzoate | 0.65 mmol, 10 mL, 200 mg | NC(=O)C=1C=C(C(=O)OC)C=C(C1)C(=O)N(CCC)CCC | C16H22N2O4
reactant | potassium carbonate | 0.65 mmol, 90 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-[(dipropylamino)carbonyl]-5-(4-methyl-1,3-oxazol-2-yl)benzoate | 119 mg | C(CC)N(C(=O)C=1C=C(C(=O)OC)C=C(C1)C=1OC=C(N1)C)CCC | C19H24N2O4
